US05292614
29.1 g of 2,4-diamino-6-chloro-s-triazine was added to 300 ml of water to obtain a slurry. Then 6 g of ethylenediamine was added thereto, and the mixture was stirred for 15 minutes. Then, 16 g of a 25 wt% sodium hydroxide aqueous solution was added thereto, and the mixture was refluxed under heating for two hours. At that time, about 3 g of a 25 wt% sodium hydroxide aqueous solution was further gradually added over a period of two hours to maintain the reaction solution in a weakly alkaline state. After completion of the reaction, the reaction mixture was left to cool, whereupon the crystals were collected by filtration and washed with water to obtain 25.3 g of ethylenebismelamine. Then, 5.9 g of ethylenebismelamine and 17 g of formaline were mixed, and mixture was subjected to a heating reaction at 90° C. for 4 hours while maintaining the mixture at pH 9 to 10 with an aqueous sodium hydroxide solution. Then, the formed methylol product was taken out, and 30 ml of methanol was added thereto. The mixture was adjusted to pH 4 with hydrochloric acid. After the solution became uniform, it was heated for 5 minutes and neutralized. Then, methanol was distilled off to obtain 3.2 g of methoxymethylated ethylenebismelamine. The product was analyzed by IR and NMR and was found to be a mixture containing octamethoxymethylethylenebismelamine as the main component.

reactant | 2,4-diamino-6-chloro-s-triazine | 29.1 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | ethylenediamine | 6 g | C(CN)N | C2H8N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | ethylenebismelamine | 25.3 g | C(CNC1=NC(=NC(=N1)N)N)NC1=NC(=NC(=N1)N)N | C8H14N12
